US07601716B2
1-(2,5-Difluorobenzyl)-7-[6-(4-methylpiperazin-1-yl)pyridin-3-yl]-1,2,3,4-tetrahydropyrido[2,3-b]pyrazine
1-(2,5-Difluorobenzyl)-7-iodo-1,2,3,4-tetrahydropyrido[2,3-b]pyrazine (50 mg) was reacted with 1-methyl-4-[5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)pyridin-2-yl]piperazine as in General Procedure 4A to give the title compound as a beige solid (53% yield). M.p. 192-193° C., LCMS: m/z=437.07 (M+H+), 1H-NMR (CDCl3, 400 MHz) δ 2.34 (s, 3H), 2.52-2.58 (m, 4H, 3.43-3.50 (m, 2H), 3.52-3.59 (m, 4H), 3.60-3.65 (m, 2H), 4.47 (s, 2H), 4.90 (s, 1H), 6.62 (m, 2H), 6.91-7.09 (m, 3H), 7.52 (dd, J=8.8 Hz, 2.5 Hz, 1H), 7.62 (d, J=1.8 Hz, 1H), 8.2 (d, J=2.5 Hz, 1H).

reactant | 1-(2,5-Difluorobenzyl)-7-iodo-1,2,3,4-tetrahydropyrido[2,3-b]pyrazine | 50 mg | FC1=C(CN2C3=C(NCC2)N=CC(=C3)I)C=C(C=C1)F | C14H12F2IN3
reactant | 1-methyl-4-[5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)pyridin-2-yl]piperazine | CN1CCN(CC1)C1=NC=C(C=C1)B1OC(C(O1)(C)C)(C)C | C16H26BN3O2
product | 1-(2,5-Difluorobenzyl)-7-[6-(4-methylpiperazin-1-yl)pyridin-3-yl]-1,2,3,4-tetrahydropyrido[2,3-b]pyrazine | 53% yield | FC1=C(CN2C3=C(NCC2)N=CC(=C3)C=3C=NC(=CC3)N3CCN(CC3)C)C=C(C=C1)F | C24H26F2N6
